US07091214B2
6-Bromo-4-chloro-3-nitroquinoline (50.62 g, 177.8 mmol), prepared from 4-bromoaniline according to the methods described in Parts A–D of Example 1, was treated with 1-(3-aminopropyl)pyrrolidin-2-one (27.5 mL, 196 mmol) according to the method described in Part E of Example 1 to provide 61.41 g of 1-[3-(6-bromo-3-nitroquinolin-4-ylamino)propyl]pyrrolidin-2-one as a solid.

reactant | 6-Bromo-4-chloro-3-nitroquinoline | 177.8 mmol, 50.62 g | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 1-(3-aminopropyl)pyrrolidin-2-one | 196 mmol, 27.5 mL | NCCCN1C(CCC1)=O | C7H14N2O
product | 1-[3-(6-bromo-3-nitroquinolin-4-ylamino)propyl]pyrrolidin-2-one | 61.41 g | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCN1C(CCC1)=O | C16H17BrN4O3
